US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine (example A.38) (0.68 g, 2.0 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.35 g, 2.2 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.33 g, 39%). MS (ISP) 418.3 [(M+H)+]; mp 105.5° C.

reactant | 2-chloro-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine | 2.0 mmol, 0.68 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C13H7ClF6N2
reactant | 2-chloro-pyridine-4-boronic acid | 2.2 mmol, 0.35 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C(F)(F)F | C18H10ClF6N3
